US05480995
7.4 g of dimethylaminomethylene-glutacononitrile, 100 ml of DMF and 4.4 g of 35.6% strength aqueous methylamine solution were held for 2 hours at 80° C. in an 0.3 l V4A autoclave. After the mixture had been removed and concentrated, 6.4 g of 2-methylamino-5-cyanopyridine (purity 93%) were obtained, which corresponds to 90.2% of theory.

reactant | dimethylaminomethylene-glutacononitrile | 7.4 g | CN(C)C=C(C=CC#N)C#N | C8H9N3
reactant | methylamine | CN | CH5N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-methylamino-5-cyanopyridine | 6.4 g | CNC1=NC=C(C=C1)C#N | C7H7N3
